US04065473
Preparation of dl-1-(3,4-Dimethyl-6-chlormethylphenyl)-2-acetamidopropane
4.1 g of rac. 1-(3,4-dimethylphenyl)-2-acetamidopropane was dissolved in 40 ml of 1,1,2,2-tetrachlorethane in a 100-ml RB flask provided with a stirrer, thermometer, condenser, and gas inlet tube. Twelve ml of 37% formaldehyde was added, and a stream of hydrogen chloride passed into the stirred mixture as the temperature rose to 50°, where it was maintained for 5 hrs. At this point, the mixture remained overnight at room temperature. The reaction mixture was poured into water, the organic phase was washed twice with water, dried, and the solvent distilled in the rotary evaporator, leaving 4.2 g of a colorless oil. The oil was refluxed with four 100-ml-portions of petroleum ether (b.p. 60-0-°), and from the combined extracts, a mass of cottony needles separated. The solid was collected by filtration and freed of solvent in vacuo to yield the above-named product, m.p. 72°-73°.

reactant | rac. 1-(3,4-dimethylphenyl)-2-acetamidopropane | 4.1 g | CC=1C=C(C=CC1C)CC(C)NC(C)=O | C13H19NO
reactant | formaldehyde | Twelve ml | C=O | CH2O
reactant | hydrogen chloride | Cl | ClH
reactant | water | O | H2O
reactant | 1,1,2,2-tetrachlorethane | 40 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
product | 1-(3,4-Dimethyl-6-chlormethylphenyl)-2-acetamidopropane | 4.2 g | CC=1C=C(C(=CC1C)CCl)CC(C)NC(C)=O | C14H20ClNO
